US05273999
A solution of 4.3 g (13.96 mmol) of 2-[[5-(acetoxy)pentyl]oxy]benzenepropanoic acid methyl ester and 2.18 g (27.8 mmol) of freshly distilled acetyl chloride in 250 mL of dry dichloromethane was stirred with ice-bath cooling while 7.5 g (56.7 mmol) of anhydrous aluminum chloride was added in one portion. The resulting mixture was stirred at 0°-5° C. for 2 hr before being treated with ice. Work-up with dichloromethane in the usual manner gave an oil which was chromatographed on 100 g of silica gel. Elution with 1:1 hexane-ether afforded 4.22 g (86.4%) of 2-[[5-(acetoxy)pentyl]oxy]-5-acetylbenzenepropanoic acid methyl ester as an almost colorless oil.

reactant | 2-[[5-(acetoxy)pentyl]oxy]benzenepropanoic acid methyl ester | 13.96 mmol, 4.3 g | COC(CCC1=C(C=CC=C1)OCCCCCOC(C)=O)=O | C17H24O5
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 56.7 mmol, 7.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2-[[5-(acetoxy)pentyl]oxy]-5-acetylbenzenepropanoic acid methyl ester | 4.22 g, 86.4% | COC(CCC1=C(C=CC(=C1)C(C)=O)OCCCCCOC(C)=O)=O | C19H26O6
